US05034393
4-[2-[4-(t-butyl)phenyl]ethoxy]pteridine
To a suspension of 2 g of 4-hydroxypteridine in 20 mL of CH2Cl2 under nitrogen was added 1.2 g of 25 pyridine. The mixture was cooled to -30° C and over a 15 minute period a solution of 4.82 g of triphenyl phosphite in CH2Cl2 was added simultaneously with addition of chlorine gas. The mixture was stirred for one and one half hours while maintaining the temperature at -15 to -20° C. The mixture was then allowed to warm to 10° C., and a solution of 2.67 g of 2-[4-(t-butyl)phenyl]ethanol in CH2Cl2 was added. The resulting mixture was refluxed for 45 minutes, then cooled and diluted into toluene. The toluene solution was washed with dilute base, then filtered through phase separating paper and concentrated in vacuo. The resulting bluish oil was adsorbed onto silica gel and chromatographed (silica gel, CH2Cl2 →80% CH2Cl2, 20% EtOAc). Fractions containing the major product were combined. The product was then recrystallized from petroleum ether/CH2Cl2. Yield 60 mg. M.P. 149° C.

reactant | 4-hydroxypteridine | 2 g | OC1=NC=NC2=NC=CN=C12 | C6H4N4O
reactant | triphenyl phosphite | 4.82 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | chlorine | ClCl | Cl2
reactant | 2-[4-(t-butyl)phenyl]ethanol | 2.67 g | C(C)(C)(C)C1=CC=C(C=C1)CCO | C12H18O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[2-[4-(t-butyl)phenyl]ethoxy]pteridine | C(C)(C)(C)C1=CC=C(C=C1)CCOC1=NC=NC2=NC=CN=C12 | C18H20N4O
